US07105679B2
5-Phenyl-5,11-dihydro-chromeno[4,3-c]chromene-2,8-diol: Compound #6
The title product was prepared according to the procedure described in Example 44 with substitution of 2,8-Bis-(tert-butyl-dimethyl-silyloxy)-5-phenyl-5,11-dihydro-chromeno[4,3-c]-chromene, prepared as in Example 41, for 1-(2-{4-[2,8-Bis-(tert-butyl-dimethyl-silyloxy)-5,11-dihydro-chromeno[4,3-c]-chromen-5-yl]-phenoxy}-ethyl)-piperidine.

reactant | 2,8-Bis-(tert-butyl-dimethyl-silyloxy)-5-phenyl-5,11-dihydro-chromeno[4,3-c]-chromene | C(C)(C)(C)[Si](OC=1C=CC=2C3=C(COC2C1)C=1C=CC(=CC1OC3C3=CC=CC=C3)O[Si](C)(C)C(C)(C)C)(C)C | C34H44O4Si2
reactant | 1-(2-{4-[2,8-Bis-(tert-butyl-dimethyl-silyloxy)-5,11-dihydro-chromeno[4,3-c]-chromen-5-yl]-phenoxy}-ethyl)-piperidine | C(C)(C)(C)[Si](OC=1C=CC=2C3=C(COC2C1)C=1C=CC(=CC1OC3C3=CC=C(OCCN1CCCCC1)C=C3)O[Si](C)(C)C(C)(C)C)(C)C | C41H57NO5Si2
product | 5-Phenyl-5,11-dihydro-chromeno[4,3-c]chromene-2,8-diol | C1(=CC=CC=C1)C1OC=2C=C(C=CC2C=2COC=3C=C(C=CC3C21)O)O | C22H16O4
